US08580780B2
2-(tert-Butyldimethylsilyloxymethyl)-5-(3-methyl-butyryl)-pyridine:
Add manganese dioxide (1.32 g) to a stirred solution of 2-(tert-butyldimethylsilyloxymethyl)-5-(1-hydroxy-3-methyl-butyl)-pyridine (330 mg, 1.066 mmol) in anhydrous 1,4-dioxane (30 mL). Heat the mixture to 70° C. overnight. Cool the reaction mixture to room temperature, filter through Celite® and wash with EtOAc. Concentrate the filtrate in vacuo to provide the desired intermediate as oil (327 mg, 100%). GC-MS m/z: 307 (M+.).

reactant | 2-(tert-butyldimethylsilyloxymethyl)-5-(1-hydroxy-3-methyl-butyl)-pyridine | 1.066 mmol, 330 mg | [Si](C)(C)(C(C)(C)C)OCC1=NC=C(C=C1)C(CC(C)C)O | C17H31NO2Si
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 1.32 g | [O-2].[O-2].[Mn+4]
product | 2-(tert-Butyldimethylsilyloxymethyl)-5-(3-methyl-butyryl)-pyridine | 327 mg, 100% | [Si](C)(C)(C(C)(C)C)OCC1=NC=C(C=C1)C(CC(C)C)=O | C17H29NO2Si
